US07713979B2
1-(Cis-2-methyl-cyclohexyl)-pyrrolidin-2-one
Dissolve cis-1-azido-2-methyl-cyclohexane (Preparation 31) (3.68 g, 26.41 mmol) and cyclobutanone (1.85 g, 26.41 mmol) in dichloromethane (200 mL). Cool the solution to 0° C. and add titanium chloride (15.03 g, 79.23 mmol) under nitrogen. Stir the reaction for 24 hours at room temperature. Add water (200 mL), and extract the aqueous layer with dichloromethane (3×200 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 20-50% of EtOAc/Hexane) to give 1.74 g (36%) of the title compound as a colorless oil.

reactant | cis-1-azido-2-methyl-cyclohexane | 26.41 mmol, 3.68 g | N(=[N+]=[N-])[C@H]1[C@H](CCCC1)C | C7H13N3
reactant | cyclobutanone | 26.41 mmol, 1.85 g | C1(CCC1)=O | C4H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | titanium chloride | 79.23 mmol, 15.03 g | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
product | 1-(Cis-2-methyl-cyclohexyl)-pyrrolidin-2-one | 1.74 g, 36% | C[C@@H]1[C@@H](CCCC1)N1C(CCC1)=O | C11H19NO
